US09079866B2
5-[3-Fluoro-2′-({[2-(trimethylsilyl)ethoxy]methyl}sulfanyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)-pyrazin-2-amine and (2-(((2-bromophenyl)thio)methoxy)ethyl)trimethylsilane. MS (ESI): mass calcd. for C22H26FN3OSSi, 427.16; m/z found, 428.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.43-8.36 (m, 1H), 8.07 (d, J=1.5, 1H), 7.89 (m, 1H), 7.73 (dd, J=6.7, 1.4, 1H), 7.40-7.17 (m, 5H), 4.90 (s, 2H), 3.64-3.50 (m, 2H), 0.91-0.78 (m, 2H), 0.04 (s, 9H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | (2-(((2-bromophenyl)thio)methoxy)ethyl)trimethylsilane | BrC1=C(C=CC=C1)SCOCC[Si](C)(C)C | C12H19BrOSSi
product | 5-[3-Fluoro-2′-({[2-(trimethylsilyl)ethoxy]methyl}sulfanyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)SCOCC[Si](C)(C)C | C22H26FN3OSSi
